US09211281B2
Preparation of (E)-N-(2-Methyl-2-(2,2,2-trifluoroacetamido)propyl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-2-(trifluoromethyl)benzamide
To a solution of (E)-N-(2-amino-2-methylpropyl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-2-(trifluoromethyl)benzamide (155 mg, 0.283 mmol), 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxid hexafluorophosphate (HATU) (118 mg, 0.311 mmol), and 2,2,2-trifluoroacetic acid (0.026 mL, 0.340 mmol) in DMF (1 mL) was—added N-methylmorpholine (0.062 mL, 0.566 mmol). The mixture was stirred at ambient temperature for 18 h, —then partitioned between water and EtOAc. The organic phase was washed with water and—brine, —dried (sodium sulfate) and concentrated—under reduced pressure. Purification by column chromatography eluting with EtOAc in hexanes (10%-100%)—afforded the title compound as a yellow oil (26 mg, 13%).

reactant | (E)-N-(2-amino-2-methylpropyl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-2-(trifluoromethyl)benzamide | 0.283 mmol, 155 mg | NC(CNC(C1=C(C=C(C=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)C(F)(F)F)=O)(C)C | C22H19Cl3F6N2O
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxid hexafluorophosphate | 0.311 mmol, 118 mg | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | 2,2,2-trifluoroacetic acid | 0.340 mmol, 0.026 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-methylmorpholine | 0.566 mmol, 0.062 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (E)-N-(2-Methyl-2-(2,2,2-trifluoroacetamido)propyl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-2-(trifluoromethyl)benzamide | CC(CNC(C1=C(C=C(C=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)C(F)(F)F)=O)(C)NC(C(F)(F)F)=O | C24H18Cl3F9N2O2
